US04713396
1-(5-chloro-2-fluoro-3-trifluoromethylphenyl)-3-(2,6-difluorobenzoyl) urea (Compound No. 4)
The product was prepared from 5-chloro-2-fluoro-3-trifluoromethylaniline (0.5 g) and 2,6-difluorobenzoylisocyanate (0.4 g) by operating according to the process of Example 1 to obtain the product 0.6 g. (m.p. 187°-189° C.)

reactant | 5-chloro-2-fluoro-3-trifluoromethylaniline | 0.5 g | ClC=1C=C(C(=C(N)C1)F)C(F)(F)F | C7H4ClF4N
reactant | 2,6-difluorobenzoylisocyanate | 0.4 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
product | 1-(5-chloro-2-fluoro-3-trifluoromethylphenyl)-3-(2,6-difluorobenzoyl) urea | 0.6 g | ClC=1C=C(C(=C(C1)NC(=O)NC(C1=C(C=CC=C1F)F)=O)F)C(F)(F)F | C15H7ClF6N2O2
